US04957928
A solution of 3.4 g (12.7 mmol) of 3-ethoxycarbonylmethyl-2,2-dimethyl-6-fluoro-chroman in 40 ml of absolute diethyl ether is added dropwise within a period of 30 minutes, while cooling with ice, to a suspension of 0.97 g (25.5 mmol) of lithium aluminium hydride in 30 ml of absolute diethyl ether. The reaction mixture is then stirred for 2 hours at room temperature and then carefully decomposed with 1 ml of water, 1 ml of sodium hydroxide solution (15%) and 3 ml of water. The resulting precipitate is filtered off with suction and the filtrate is dried over sodium sulfate and concentrated by evaporation in vacuo, yielding 2.75 g (96% of the theoretical yield) of 2,2-dimethyl-6-fluoro-3-(2-hydroxyethyl)-chroman in the form of a light-yellow oil.

reactant | 3-ethoxycarbonylmethyl-2,2-dimethyl-6-fluoro-chroman | 12.7 mmol, 3.4 g | C(C)OC(=O)CC1C(OC2=CC=C(C=C2C1)F)(C)C | C15H19FO3
reactant | lithium aluminium hydride | 25.5 mmol, 0.97 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 2,2-dimethyl-6-fluoro-3-(2-hydroxyethyl)-chroman | CC1(OC2=CC=C(C=C2CC1CCO)F)C | C13H17FO2
